US07691850B2
c) (±)-phenylmethyl 3-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-3-fluoro-1-pyrrolidinecarboxylate
To a stirred solution of (±)-phenylmethyl 3-cyano-3-fluoro-1-pyrrolidinecarboxylate (1.0 g, 4.03 mmole), in THF (50 mL) at 0° C. was added B2H6 (12.1 mL, 1M in THF). After 24 h, the reaction was quenched with 6N HCl (5 mL) and stirred for 1 h at RT. The reaction solution was made basic (pH=8) with 6N NaOH and the solution was concentrated to a solid under vacuum. The reaction contents were extracted with EtOAc (100 mL) and THF (100 mL) and then concentrated under vacuum. The residue was dissolved in THF (75 mL) and (Boc)2O (0.94 g, 4.28 mmole) in THF (15 mL) was added to the solution. After 12 hr at RT, the reaction solution was concentrated and purified on silica (hexanes/EtOAc, 1:1) to afford the title compound (1.0 g, 70%) as a colorless oil: LC-MS (ES) m/e 353 (M+H)+.

reactant | (±)-phenylmethyl 3-cyano-3-fluoro-1-pyrrolidinecarboxylate | 4.03 mmole, 1.0 g | C(#N)C1(CN(CC1)C(=O)OCC1=CC=CC=C1)F | C13H13FN2O2
reactant | B2H6 | 1M, 12.1 mL | [H]1[BH2][H][BH2]1 | B2H6
reactant | (Boc)2O | 4.28 mmole, 0.94 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (±)-phenylmethyl 3-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-3-fluoro-1-pyrrolidinecarboxylate | 1.0 g, 70% | CC(C)(C)OC(=O)NCC1(CN(CC1)C(=O)OCC1=CC=CC=C1)F | C18H25FN2O4
